US06911458B2
N-[4-Methoxy-2-(2-oxiranylmethoxy)phenyl]acetamide
Was prepared from N-(2-hydroxy-4-methoxyphenyl)acetamide according to the method described for N-[4-methyl-2-(2-oxiranylmethoxy)phenyl]acetamide using cesium carbonate instead of potassium carbonate.

reactant | N-(2-hydroxy-4-methoxyphenyl)acetamide | OC1=C(C=CC(=C1)OC)NC(C)=O | C9H11NO3
reactant | N-[4-methyl-2-(2-oxiranylmethoxy)phenyl]acetamide | CC1=CC(=C(C=C1)NC(C)=O)OCC1OC1 | C12H15NO3
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
product | N-[4-Methoxy-2-(2-oxiranylmethoxy)phenyl]acetamide | COC1=CC(=C(C=C1)NC(C)=O)OCC1OC1 | C12H15NO4
